US06825191B2
Step 1: Synthesis of ethyl (5-methyl-2-nitrobenzyl)aminoacetate
5.0 g (27 mmol) of 5-methyl-2-nitrobenzyl chloride was dissolved in 100 ml of ethanol. 7.5 g (54 mmol) of glycine ethyl ester hydrochloride and 6.8 g (81 mmol) of sodium hydrogencarbonate were added to the obtained solution, and they were stirred at 70° C. for 6 hours. The solvent was evaporated. After the extraction with ethyl acetate, the extract was washed with 1 N hydrochloric acid. The obtained aqueous layer was made basic with 1 N sodium hydroxide. After the extraction with ethyl acetate, the obtained organic layer was washed with saturated aqueous sodium chloride solution and then dried. The solvent was evaporated to obtain the title compound.

reactant | 5-methyl-2-nitrobenzyl chloride | 27 mmol, 5.0 g | CC=1C=CC(=C(CCl)C1)[N+](=O)[O-] | C8H8ClNO2
reactant | glycine ethyl ester hydrochloride | 54 mmol, 7.5 g | Cl.C(C)OC(CN)=O
reactant | sodium hydrogencarbonate | 81 mmol, 6.8 g | C(O)([O-])=O.[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl (5-methyl-2-nitrobenzyl)aminoacetate | CC=1C=CC(=C(CNCC(=O)OCC)C1)[N+](=O)[O-] | C12H16N2O4
